US07163937B2
Preparation H1, Step 3: A solution of 0.6 g (0.003 mol) of methyl 3-carbamothioylbenzoate in 6 ml of acetic acid was charged with 1.15 g (0.009 mol) of chloroacetaldehyde dimethyl acetal and a catalytic amount of PTSA. The RM was heated to 100° C. over night. Acetic acid was removed under vacuum and the crude product was purified by 60–120 silica gel column using 5% of ethyl acetate in pet ether as eluent to provide methyl 3-(thiazol-2-yl)benzoate (0.5 g) as a white solid.

reactant | methyl 3-carbamothioylbenzoate | 0.003 mol, 0.6 g | C(N)(=S)C=1C=C(C(=O)OC)C=CC1 | C9H9NO2S
reactant | chloroacetaldehyde dimethyl acetal | 0.009 mol, 1.15 g | COC(CCl)OC | C4H9ClO2
reactant | PTSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | methyl 3-(thiazol-2-yl)benzoate | 0.5 g | S1C(=NC=C1)C=1C=C(C(=O)OC)C=CC1 | C11H9NO2S
